US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole (0.77 g) in dichloromethane (5 mL) were added triethylamine (0.26 mL) and methanesulfonyl chloride (0.12 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)-propoxy]phenyl}methyl)-1H-pyrazole (0.85 g). The obtained 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]phenyl}-methyl)-1H-pyrazole (0.2 g) was dissolved in a mixed solvent of acetonitrile (1.5 mL) and ethanol (1.5 mL). To the solution were added 2-[2-amino-2-(methyl)propionylamino]ethanol (0.25 g) and a catalytic amount of sodium iodide, and the mixture was stirred at 60° C. for 4 days. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-10/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-(2-hydroxyethylcarbamoyl)-1-(methyl)ethylamino]propoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.13 g). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.05 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (93 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]phenyl}-methyl)-1H-pyrazole | 0.2 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCOS(=O)(=O)C)C(C)C | C31H42N2O14S
reactant | 2-[2-amino-2-(methyl)propionylamino]ethanol | 0.25 g | NC(C(=O)NCCO)(C)C | C6H14N2O2
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-(2-hydroxyethylcarbamoyl)-1-(methyl)ethylamino]propoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole | 0.13 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCNC(C)(C)C(NCCO)=O)C(C)C | C36H52N4O13
